US05227452
B. Synthesis of 4,4'-Diaminobenzanilide
A portion (22.0 grams, 0.1532 nitro equivalents) of 4,4'-dinitrobenzanilide from A above and ethanol (300 milliliters) are added to a 400 milliliter heavy walled glass bottle and then sparged with nitrogen. After removal of air by nitrogen sparging, Raney nickel catalyst (6.0 grams of a 75% wt. slurry in water at pH 10) is added to the slurry in the glass bottle which is then stoppered and multiply purged with hydrogen to replace the nitrogen atmosphere. The bottle is then placed on a shaking type agitator, and pressurized to 46.5 psig hydrogen. Shaking of the pressurized slurry at room temperature (25° C.) commences until 20.7 hours later, the hydrogen pressure reading indicated that 42 psig of hydrogen has been consumed. The product slurry is recovered, diluted into dimethylsulfoxide (250 milliliters) to provide a solution of product containing precipitated Raney nickel, then filtered through a medium porosity fritted glass funnel. The recovered dimethylsulfoxide product solution is rotary evaporated at 130° C. under vacuum to provide a solid product. The solid product is further dried in a vacuum oven at 120° C. and 3 mm Hg to a constant weight of 16.98 grams. The product thus recovered is light golden orange in color. Fourier transform infrared spectrophotometric analysis of a nujol mull of the product on a sodium chloride plate confirms the product structure (disappearance of the absorbances observed for the conjugated nitro group, secondary amide N--H stretching (solid state) and primary amine N--H group stretching absorbances observed at 3393, 3318 and 3207 cm-1 and secondary amide carbonyl stretching (solid state) absorbance observed at 1630 cm-1). Proton magnetic resonance spectroscopy further confirms the product structure.

reactant | 4,4'-dinitrobenzanilide | 22.0 grams | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H9N3O5
solvent | ethanol | 300 milliliters | C(C)O | C2H6O
product | 4,4'-Diaminobenzanilide | NC1=CC=C(C(=O)NC2=CC=C(C=C2)N)C=C1 | C13H13N3O
